US05981537
Preparation of 4-amino-6-chloro-2-(3-isopropoxyphenylmethylthio)-pyrimidine (Cpd #108)
4-amino-6-chloro-2-(3-hydroxyphenylmethylthio)-pyrimidine (135 mg, 0.50 mmol; Cpd 108) is added to a solution of KOH (280 mg, 5 mmol) in DMSO (2.5 ml) at room temperature. 2-Bromopropane (615 mg, 5 mmol) is added and the reaction stirred overnight, then poured onto water. The aqueous solution is extracted with ethyl acetate, dried with MgSO4, filtered, and concentrated in vacuo. The sample is purified by chromatography using 1:3 ethyl acetate/hexanes, mp 71° C.

reactant | 4-amino-6-chloro-2-(3-hydroxyphenylmethylthio)-pyrimidine | 0.50 mmol, 135 mg | NC1=NC(=NC(=C1)Cl)SCC1=CC(=CC=C1)O | C11H10ClN3OS
reactant | KOH | 5 mmol, 280 mg | [OH-].[K+]
reactant | 2-Bromopropane | 5 mmol, 615 mg | BrC(C)C | C3H7Br
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
product | 4-amino-6-chloro-2-(3-isopropoxyphenylmethylthio)-pyrimidine | NC1=NC(=NC(=C1)Cl)SCC1=CC(=CC=C1)OC(C)C | C14H16ClN3OS
